US07060844B2
To a solution of oxindole (1.10 g, 8.27 mmol) in dimethoxyethane (30.0 ml) at room temperature was added 1.0M LiHMDS/THF (17.0 ml). The mixture was stirred for 10 minutes at room temperature, and lithium 3-oxo-1,3-dihydro-2-benzofuran-1-carboxylate (1.37 g, 7.44 mmol) was added in one portion. After the reaction was rapidly stirred at room temperature for 18 hours, it was quenched into 4% HCl aqueous solution (200 mL), and the mixture was stirred 5 minutes. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with water and then extracted with saturated NaHCO3 aqueous solution. The aqueous layer was acidified with 4% HCl aqueous solution, and extracted with EtOAc. The combined organic layers were washed with brine, dried with anhydrous Na2SO4, and rotary evaporated to obtain a yellow solid. The yellow solid was triturated at room temperature with CHCl3, and then triturated with hot isopropanol to give 3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-carboxylic acid as a yellow solid (287 mg, 13%).

reactant | oxindole | 8.27 mmol, 1.10 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | LiHMDS THF | 1.0M, 17.0 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C.C1CCOC1
reactant | lithium 3-oxo-1,3-dihydro-2-benzofuran-1-carboxylate | 7.44 mmol, 1.37 g | O=C1OC(C2=C1C=CC=C2)C(=O)[O-].[Li+]
solvent | dimethoxyethane | 30.0 ml | C(OC)COC | C4H10O2
product | 3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-carboxylic acid | 287 mg, 13% | O=C1NC2=CC=CC=C2C1=C1OC(C2=CC=CC=C12)C(=O)O | C17H11NO4
